US08017611B2
2-amino-5-bromo-pyridine-3-carboxylic acid (797 mg) and 2-amino-5-fluoro-pyridin-3-ol, hydrochloride (400 mg) powders were mixed together and the resulting mixture was portionwise added in trimethylsilyl polyphosphate (4.5 g) stirred at 100° C. The mixture was stirred at 140° C. overnight. After cooling, water (20 ml) was added. The resulting precipitate was collected by filtration, washed with a 2N aqueous solution of HCl and water. The resulting solid was triturated in Ethyl acetate, collected by filtration to afford 5-bromo-3-(6-fluorooxazolo[4,5-b]pyridin-2-yl)pyridin-2-amine (150 mg). NMR Spectrum: (DMSO-d6) 7.10 (bs, 2H), 7.66 (dd, 1H), 8.31 (d, 1H), 8.39 (d, 1H), 8.49 (dd, 1H); Mass spectrum: M+H+ 309-311.

reactant | 2-amino-5-bromo-pyridine-3-carboxylic acid | 797 mg | NC1=NC=C(C=C1C(=O)O)Br | C6H5BrN2O2
reactant | 2-amino-5-fluoro-pyridin-3-ol, hydrochloride | 400 mg | Cl.NC1=NC=C(C=C1O)F
reactant | water | 20 ml | O | H2O
solvent | trimethylsilyl polyphosphate | 4.5 g | C[Si](C)(C)OP(=O)=O | C3H9O3PSi
product | 5-bromo-3-(6-fluorooxazolo[4,5-b]pyridin-2-yl)pyridin-2-amine | 150 mg | BrC=1C=C(C(=NC1)N)C=1OC=2C(=NC=C(C2)F)N1 | C11H6BrFN4O
